US06211199B1
16.6 Synthesis of 1-(3,4,5-trimethoxybenzoyl)-3-(3,4-dichlorophenyl)-3-(2-methanesulfonyloxyethyl)piperidine
Combine 1-(3,4,5-trimethoxybenzoyl)-3-(3,4-dichlorophenyl)-3-(2-hydroxyethyl)piperidine (0.61 g, 1.3 mmol) and N,N-diisopropylethylamine (0.37 g, 2.86 mmol) in anhydrous dichloromethane (12 mL). Cool the reaction mixture to 0° C. with an ice bath. Slowly add methanesulfonyl chloride (0.19 g, 1.7 mmol). After 3.5 hours, dilute the reaction mixture with dichloromethane and extract with 1M hydrochloric acid and with a saturated solution of sodium bicarbonate. Dry the organic layer over Na2SO4, filter, and concentrate in vacuo to obtain the title compound: Rf=0.60 (silica gel, 1/1 ethyl acetate/hexane).

reactant | 1-(3,4,5-trimethoxybenzoyl)-3-(3,4-dichlorophenyl)-3-(2-hydroxyethyl)piperidine | 1.3 mmol, 0.61 g | COC=1C=C(C(=O)N2CC(CCC2)(CCO)C2=CC(=C(C=C2)Cl)Cl)C=C(C1OC)OC | C23H27Cl2NO5
reactant | N,N-diisopropylethylamine | 2.86 mmol, 0.37 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methanesulfonyl chloride | 1.7 mmol, 0.19 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 12 mL | ClCCl | CH2Cl2
product | 1-(3,4,5-trimethoxybenzoyl)-3-(3,4-dichlorophenyl)-3-(2-methanesulfonyloxyethyl)piperidine | COC=1C=C(C(=O)N2CC(CCC2)(CCOS(=O)(=O)C)C2=CC(=C(C=C2)Cl)Cl)C=C(C1OC)OC | C24H29Cl2NO7S
